*---------- DMG4496SSS Spice Model ----------
.SUBCKT DMG4496SSS    10 20 30
*     TERMINALS:  D  G  S
M1 1 2 3 3  NMOS  L = 1E-006  W = 1E-006 
RD 10 1 0.01007 
RS 30 3 0.001 
RG 20 2 2.86 
CGS 2 3 4.495E-010 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1  VFB 1 
CGD 13 14 4.55E-010 
R1 13 0 1 
D1 12 13  DLIM 
DDG 15 14  DCGD 
R2 12 15 1 
D2 15 0  DLIM 
DSD 3 10  DSUB 
.MODEL NMOS NMOS  LEVEL = 3  VMAX = 1E+006  ETA = 0.01276  VTO = 2.136 
+ TOX = 6E-008  NSUB = 4.86E+016  KP = 25.62  KAPPA = 7.551  U0=400
.MODEL DCGD D  CJO = 1.88E-010  VJ = 0.1151  M = 0.2705 
.MODEL DSUB D  IS = 1E-009  N = 1.345  RS = 0.004398  BV = 35  CJO = 2.225E-010  VJ = 0.6  M = 0.4775 
.MODEL DLIM D  IS = 1E-005 
.ENDS
*Diodes DMG4496SSS Spice Model v1.0 Last Revised 2010/6/24
